US09402841B2
Step C: (S)-tert-butyl 3-((7-fluoro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate
To a mixture of (S)-tert-butyl 3-((3-cyano-7-fluoroisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate (400 mg, 1.12 mmol) in MeOH (5 mL) was added NH2NH2—H2O (5 mL). The reaction mixture was heated to reflux for 2 hours. The solvent was subsequently removed to give the title compound as a white solid, which was used in next step without purification (450 mg, 100%). ESI-MS m/z [M+H]+ 390.

reactant | (S)-tert-butyl 3-((3-cyano-7-fluoroisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 1.12 mmol, 400 mg | C(#N)C=1N=C(C2=CC(=CC=C2C1)F)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C19H20FN3O3
reactant | NH2NH2—H2O | 5 mL | NN.O
solvent | MeOH | 5 mL | CO | CH4O
product | (S)-tert-butyl 3-((7-fluoro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | FC1=CC=C2C=C(N=C(C2=C1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C(=N)NN | C19H24FN5O3
